US06603008B1
4-Acetyl-2-fluorophenyl Trifluoromethanesulfonate (Step 2)
To a stirred solution of 1-(3-fluoro-4-hydroxyphenyl)-1-ethanone (3.9 g, 25.30 mmol) in pyridine (86 ml) was added trifluoromethanesulfonic anhydride (5.5 ml, 32.89 mmol) dropwise at 0° C. under nitrogen. The reaction mixture was stirred at room temperature for 17 h. This was poured onto water and extracted with ethyl acetate. The extracts was washed with 2N HCl, brine, dried (MgSO4), and concentrated to afford 7.38 g as a brown oil. The crude material was used for next step directly.

reactant | 1-(3-fluoro-4-hydroxyphenyl)-1-ethanone | 25.30 mmol, 3.9 g | FC=1C=C(C=CC1O)C(C)=O | C8H7FO2
reactant | trifluoromethanesulfonic anhydride | 32.89 mmol, 5.5 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 86 ml | N1=CC=CC=C1 | C5H5N
product | 4-Acetyl-2-fluorophenyl Trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(C)=O)F)(F)F | C9H6F4O4S
